US05550129
6-hydroxy-3-(2-hydroxyethyl)-7-methoxy-4-methyl-2H-1-benzopyran-2-one
Process F; starting material: methoxyhydroquinone; yield 54%; m.p. 229°-235° C. (from methanol).

reactant | methoxyhydroquinone | COC1=C(O)C=CC(=C1)O | C7H8O3
reactant | methanol | CO | CH4O
product | 6-hydroxy-3-(2-hydroxyethyl)-7-methoxy-4-methyl-2H-1-benzopyran-2-one | yield 54% | OC=1C(=CC2=C(C(=C(C(O2)=O)CCO)C)C1)OC | C13H14O5
